US07915287B2
Step 1. ethyl 4-(3-fluoro-4-(2-(pyrrolidine-1-carboxamido)pyridin-4-yloxy)phenylamino)-2-(methylthio)pyrimidine-5-carboxylate
A mixture of N-(4-(4-amino-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide (0.158 g, 0.5 mmol), ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate (0.2 g, 1.0 mmol), N-ethyl-N-isopropylpropan-2-amine (0.1 g, 1.0 mmol) in 1,4-dioxane (1 g, 11 mmol) was heated in microwave (CEM) at 60 W and 60° C. for 40 min. The resultant was diluted with DCM (15 mL) and water (10 mL). The organic layer was separated, dried over sodium sulfate, and concentrated. The residue was used for the next step without further purification.

reactant | N-(4-(4-amino-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide | 0.5 mmol, 0.158 g | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
reactant | ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate | 1.0 mmol, 0.2 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.0 mmol, 0.1 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1,4-dioxane | 11 mmol, 1 g | O1CCOCC1 | C4H8O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | ethyl 4-(3-fluoro-4-(2-(pyrrolidine-1-carboxamido)pyridin-4-yloxy)phenylamino)-2-(methylthio)pyrimidine-5-carboxylate | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)N1CCCC1)NC1=NC(=NC=C1C(=O)OCC)SC | C24H25FN6O4S
